US05298652
A solution of 1.3 g (2.2 mmol) of N-(2-ethoxy-2-oxoethyl)-N-[2-[3-(octadecyloxy)phenyl]-1,2-dioxoethyl]glycine ethyl ester and 1.8 ml (11 mmol) of 6N NaOH in 100 ml of methanol was stirred at reflux under argon for 3 hours. The solvent was removed at reduced pressure, the residue was acidified and the product was extracted with ethyl acetate. The dried extract was concentrated at reduced pressure to a solid which was recrystallized from acetone-hexane to give 1.08 g (91% yield, mp 126°-128°) of N-(carboxymethyl)-N-[2-[3-(octadecyloxy)phenyl]-1,2-dioxoethyl]glycine.

reactant | N-(2-ethoxy-2-oxoethyl)-N-[2-[3-(octadecyloxy)phenyl]-1,2-dioxoethyl]glycine ethyl ester | 2.2 mmol, 1.3 g | C(C)OC(CN(C(C(=O)C1=CC(=CC=C1)OCCCCCCCCCCCCCCCCCC)=O)CC(=O)OCC)=O | C34H55NO7
reactant | NaOH | 11 mmol, 6N, 1.8 ml | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | N-(carboxymethyl)-N-[2-[3-(octadecyloxy)phenyl]-1,2-dioxoethyl]glycine | 1.08 g, 91% yield | C(=O)(O)CN(CC(=O)O)C(C(=O)C1=CC(=CC=C1)OCCCCCCCCCCCCCCCCCC)=O | C30H47NO7
